US04024271
Reacting N-cyano-N'-[2-(3-isothiazolylmethylthio)ethyl]-S-methylisothiourea, prepared from 3-[(2-aminoethyl)thiomethyl]isothiazole by the procedure of Example 3(c) (i), with ethylamine by the procedure of Example 4 gives N-cyano-N'-ethyl-N"-[2-(3-isothiazolylmethylthio)ethyl]guanidine.

reactant | N-cyano-N'-[2-(3-isothiazolylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=NSC=C1 | C9H12N4S3
reactant | 3-[(2-aminoethyl)thiomethyl]isothiazole | NCCSCC1=NSC=C1 | C6H10N2S2
reactant | ethylamine | C(C)N | C2H7N
product | N-cyano-N'-ethyl-N"-[2-(3-isothiazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=NSC=C1)NCC | C10H15N5S2
